US05986029
a. Preparation of ethyl 3-(N,N-di-n-butylamino)propionate
Ethyl 3-bromopropionate (18.0 g; 0.10 mol) was added carefully to di-n-butylamine (25.8 g; 0.20 mol), followed by stirring for 2 hours. Then diethyl ether (200 ml) and pentane (200 ml) were added. The precipitate was filtered off, the filtrate was evaporated and the residue was distilled at sub-atmospheric pressure. The yield was 7.0 g (31%).

reactant | Ethyl 3-bromopropionate | 0.10 mol, 18.0 g | BrCCC(=O)OCC | C5H9BrO2
reactant | di-n-butylamine | 0.20 mol, 25.8 g | C(CCC)NCCCC | C8H19N
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | pentane | 200 ml | CCCCC | C5H12
product | ethyl 3-(N,N-di-n-butylamino)propionate | C(CCC)N(CCCC)CCC(=O)OCC | C13H27NO2
